US08426411B2
To a solution of (E)-ethyl 3-(1-cyclohexyl-6-tosyl-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-3-yl)acrylate (0.064 g, 0.13 mmol) in 1,4-dioxane (5 mL) was added NaOH (2 N aqueous, 1.30 mL, 2.60 mmol). The reaction mixture was heated to about 65° C. After about 15 h, the reaction mixture was cooled to ambient temperature and the pH of the reaction mixture was adjusted to about pH 1 with concentrated HCl. The mixture was partially concd in vacuo to remove the 1,4-dioxane and the resulting yellow solid was collected by filtration and dried in vacuo to provide (E)-3-(1-cyclohexyl-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-3-yl)acrylic acid (0.015 g, 37.2%): LC/MS (Table 1, Method a) Rt=1.85 min; MS m/z: 311 (M+H)+.

reactant | (E)-ethyl 3-(1-cyclohexyl-6-tosyl-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-3-yl)acrylate | 0.13 mmol, 0.064 g | C1(CCCCC1)C1=NC(=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)/C=C/C(=O)OCC | C26H28N4O4S
reactant | NaOH | 2.60 mmol, 2 N, 1.30 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (E)-3-(1-cyclohexyl-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-3-yl)acrylic acid | 0.015 g, 37.2% | C1(CCCCC1)C1=NC(=C2N1C1=C(N=C2)NC=C1)/C=C/C(=O)O | C17H18N4O2
